US04362728
A mixture of 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(2-phthalimidoethylthio)pyrimidine (0.65 g.), dimethylformamide (10 ml.), ethanolic ammonia solution (5 ml.) and yellow mercuric oxide was stirred at room temperature for 4 hours. The mixture was filtered and the filtrate evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(2-phthalimidoethylthio)-pyrimidine (0.62 g.), m.p. 192°-195°.

reactant | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(2-phthalimidoethylthio)pyrimidine | 0.65 g | FC(CNC(NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C17H14F3N5O2S2
reactant | ammonia | 5 ml | N | H3N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(2-phthalimidoethylthio)-pyrimidine | 0.62 g | FC(CN=C(NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)N)(F)F | C17H15F3N6O2S
